US09376392B2
Preparation of 5-bromo-2,7-dimethyl-6-vinylquinoline:
PdCl2(PPh3)2 (207 mg, 0.30 mmol) were added to a mixture 5-bromo-2,7-dimethylquinolin-6-yl trifluoromethanesulfonate (1.13 g, 2.95 mmol), tributyl-vinyl-stannane (0.95 mL, 3.25 mmol), lithium chloride (375 mg, 8.85 mmol) in DMF (30 mL). The reaction mixture was flushed with nitrogen, heated at 80° C. for 4 hours, cooled to room temperature. The mixture was diluted by ethyl acetate, washed with NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product. LCMS-ESI+: calc'd for C13H12BrN: 262.0 (M+H+); Found: 262.1 (M+H+).

reactant | 5-bromo-2,7-dimethylquinolin-6-yl trifluoromethanesulfonate | 2.95 mmol, 1.13 g | FC(S(=O)(=O)OC=1C(=C2C=CC(=NC2=CC1C)C)Br)(F)F | C12H9BrF3NO3S
reactant | tributyl-vinyl-stannane | 3.25 mmol, 0.95 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | lithium chloride | 8.85 mmol, 375 mg | [Cl-].[Li+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.30 mmol, 207 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-2,7-dimethyl-6-vinylquinoline | BrC1=C2C=CC(=NC2=CC(=C1C=C)C)C | C13H12BrN
